US08492414B2
3-(4-Trifluoromethoxyphenyl)-[1,2,4]thiadiazole-5-carboxylic acid ethyl ester: (III-c)
To a solution of 5-(4-trifluoromethoxyphenyl)-[1,3,4]oxathiazol-2-one (0.74 g, 2.81 mmol) in n-dodecane (0.50 ml) was added ethyl cyanoformate (1.10 ml, 11.24 mmol). The resulting reaction mixture was refluxed for 24 h at 150° C. After the completion of the reaction (TLC monitoring), added ice-cold water and extracted with ethyl acetate (3×50 ml). The combined organic layer was dried over Na2SO4, filtered and concentrated under vacuum. The crude residue was purified over silica gel (100-200 M, 2% EtOAc-Hexane) to get the product (0.11 g, 12%).

reactant | 5-(4-trifluoromethoxyphenyl)-[1,3,4]oxathiazol-2-one | 2.81 mmol, 0.74 g | FC(OC1=CC=C(C=C1)C1=NSC(O1)=O)(F)F | C9H4F3NO3S
reactant | ethyl cyanoformate | 11.24 mmol, 1.10 ml | C(#N)C(=O)OCC | C4H5NO2
solvent | n-dodecane | 0.50 ml | CCCCCCCCCCCC | C12H26
product | 3-(4-Trifluoromethoxyphenyl)-[1,2,4]thiadiazole-5-carboxylic acid ethyl ester | 0.11 g, 12% | C(C)OC(=O)C1=NC(=NS1)C1=CC=C(C=C1)OC(F)(F)F | C12H9F3N2O3S
